US07067179B1
To 200 ml of toluene was added 8.2 g of (2-propyl-1,8-difluorofluorenyl)boric acid (K-5), 7.4 g of p-iodotoluene, 31 ml of 2M aqueous sodium carbonate, 0.5 ml of ethanol and 1.0 g of tetrakis(triphenylphosphine)palladium, and the mixture was refluxed under heat for 20 hours. The reaction mixture was then washed sequentially with water and a saturated aqueous solution of sodium chloride, dried, and then purified by silica gel chromatography to yield 7.1 g of 7-(4-methylphenyl)-2-(n-propyl)-1,8-difluorofluorene (II-I1).

reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
reactant | (2-propyl-1,8-difluorofluorenyl)boric acid | 8.2 g | C(CC)C1=C(C=2CC3=C(C=CC=C3C2C=C1OB(O)O)F)F | C16H15BF2O3
reactant | p-iodotoluene | 7.4 g | IC1=CC=C(C=C1)C | C7H7I
reactant | sodium carbonate | 2M, 31 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 1.0 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
product | 7-(4-methylphenyl)-2-(n-propyl)-1,8-difluorofluorene | 7.1 g | CC1=CC=C(C=C1)C1=CC=C2C=3C=CC(=C(C3CC2=C1F)F)CCC | C23H20F2
